US07671235B2
C-[6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-yl]-methylamine hydrochloride (0.12 gms, 0.338 mmole), 1-hydroxybenzotriazole (0.07 g, 0.507 mmol) ethylcarbodiimide (0.10 g, 0.507 mmol), triethylamine (0.3 mL, 2.0 mmol) and acetic acid 2-oxo-propyl ester (0.05 g, 0.40 mmol) were dissolved in 10 mL methylene chloride. The reaction mixture was stirred at room temperature for 24 hours. The reaction was quenched with water, and the entire mixture was absorbed on to silica gel and medium pressure chromatography, and eluted with ethyl acetate//hexanes (3:1) to give 0.1 g of acetic acid {[(R)-6-(3-fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl]-carbamoyl}-methyl ester.

reactant | C-[6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-yl]-methylamine hydrochloride | 0.338 mmole, 0.12 gms | Cl.FC=1C=C(C=CC1)S(=O)(=O)C=1C=C2CCCC(C2=CC1)CN
reactant | 1-hydroxybenzotriazole | 0.507 mmol, 0.07 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 2.0 mmol, 0.3 mL | C(C)N(CC)CC | C6H15N
reactant | acetic acid 2-oxo-propyl ester | 0.40 mmol, 0.05 g | O=C(COC(C)=O)C | C5H8O3
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | acetic acid {[(R)-6-(3-fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl]-carbamoyl}-methyl ester | 0.1 g | FC=1C=C(C=CC1)S(=O)(=O)C=1C=C2CCC[C@H](C2=CC1)CNC(=O)COC(C)=O | C21H22FNO5S
